US07745641B2
In a similar manner to Step 4 of Example 140, 7-amino-4-(furan-2-yl)isoindolinone (43.0 mg, 0.201 mmol) was dissolved in acetonitrile (4.3 mL), and the solution was treated with potassium iodide (40.0 mg, 0.241 mmol), copper iodide (46.0 mg, 0.241 mmol), iodine (61.0 mg, 0.241 mmol) and tert-butyl nitrite (0.072 mL, 0.60 mmol), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile=6/1) to obtain 7-iodo-4-(furan-2-yl)isoindolinone (37.8 mg, yield 58%).

reactant | 7-amino-4-(furan-2-yl)isoindolinone | 0.201 mmol, 43.0 mg | NC=1C=CC(=C2CNC(C12)=O)C=1OC=CC1 | C12H10N2O2
reactant | potassium iodide | 0.241 mmol, 40.0 mg | [I-].[K+]
reactant | iodine | 0.241 mmol, 61.0 mg | II | I2
reactant | tert-butyl nitrite | 0.60 mmol, 0.072 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 4.3 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.241 mmol, 46.0 mg | [Cu](I)I
product | 7-iodo-4-(furan-2-yl)isoindolinone | 37.8 mg, yield 58% | IC=1C=CC(=C2CNC(C12)=O)C=1OC=CC1 | C12H8INO2
